US04331666
A stirred solution of anhydrous methylene chloride (70 ml) containing 2-(2-tritylamino-4-thiazolyl)-2-methoxyiminoacetic acid (syn-isomer) (4.43 g; 0.01 mole) and triethylamine (1.41 ml; 0.01 mole), was cooled to 0° C., and phosphorus pentachloride (2.08 g; 0.01 mole) was added portionwise. After 10 minutes of stirring at 0° C. and 1 hour at room temperature, the mixture was evaporated under reduced pressure, taken up in acetone/benzene, evaporated again in order to remove any traces of phosphorus oxychloride, and taken up in 50 ml of anhydrous acetone. Triethylamine hydrochloride was then removed by filtration. The acetone solution of 2-(2-tritylamino-4-thiazolyl)-2-methoxyiminoacetyl chloride thus obtained was dropped into a vigorously stirred, ice-cooled solution of 7-amino-3-[(8-amino-6-tetrazolo-[1,5-b]pyridazinyl)thiomethyl]-3-cephem-4-carboxylic acid (3.8 g; 0.01 mole), NaHCO3 (0.84 g) and triethylamine (2.82 ml) in a mixture of water and acetone (75 ml:50 ml). The slurry was stirred for 1/2 hour at 0°-5° C. and then for 11/2 hours at room temperature, taken up in ethyl acetate (500 ml), washed with dilute hydrochloric acid (50 ml), then aqueous sodium chloride (100 ml), dried with sodium sulphate and evaporated to dryness. The residue was stirred in methylene chloride (5 ml); then ethyl acetate (50 ml) and diethyl ether (50 ml) were added. The precipitated produced was collected, dissolved in warm methylene chloride (30 ml), cooled and treated with stirring with diethyl ether (100 ml). After 20 minutes of stirring, the white solid was filtered, washed with ether and dried, thus giving 4.3 g of 3-[(8-amino-6-tetrazolo[1,5-b]pyridazinyl)-thiomethyl]-7-[2-(2-tritylamino-4-thiazolyl)-2-methoxyiminoacetamido]-3-cephem-4-carboxylic acid (syn-isomer) as a white powder.

reactant | 2-(2-tritylamino-4-thiazolyl)-2-methoxyiminoacetic acid | 0.01 mole, 4.43 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)NC=1SC=C(N1)C(C(=O)O)=NOC | C25H21N3O3S
reactant | triethylamine | 0.01 mole, 1.41 ml | C(C)N(CC)CC | C6H15N
reactant | phosphorus pentachloride | 0.01 mole, 2.08 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
solvent | methylene chloride | 70 ml | C(Cl)Cl | CH2Cl2
product | 2-(2-tritylamino-4-thiazolyl)-2-methoxyiminoacetyl chloride | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)NC=1SC=C(N1)C(C(=O)Cl)=NOC | C25H20ClN3O2S
